US06043254
3-{(Z)-1-[4-(1H-imidazol-4-yl)anilino]-1-(4-acetylaminomethyl-phenyl)methylidene}-5-nitro-2-indolinone
3-{(Z)-1-[4-(1H-imidazol-4-yl)anilino]-1-(4-aminomethyl-phenyl)methylidene}-5-nitro-2-indolinone×H2O is stirred into dry dioxane together with 1.2 equivalents of acetic anhydride and a few drops of glacial acetic acid overnight at ambient temperature. The mixture is evaporated down in vacuo and the evaporation residue is triturated with ether.

reactant | 3-{(Z)-1-[4-(1H-imidazol-4-yl)anilino]-1-(4-aminomethyl-phenyl)methylidene}-5-nitro-2-indolinone | N1C=NC(=C1)C1=CC=C(N\C(\C2=CC=C(C=C2)CN)=C\2/C(NC3=CC=C(C=C23)[N+](=O)[O-])=O)C=C1 | C25H20N6O3
reactant | H2O | O | H2O
reactant | acetic anhydride | 1.2 equivalents | C(C)(=O)OC(C)=O | C4H6O3
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-{(Z)-1-[4-(1H-imidazol-4-yl)anilino]-1-(4-acetylaminomethyl-phenyl)methylidene}-5-nitro-2-indolinone | N1C=NC(=C1)C1=CC=C(N\C(\C2=CC=C(C=C2)CNC(C)=O)=C\2/C(NC3=CC=C(C=C23)[N+](=O)[O-])=O)C=C1 | C27H22N6O4
